US06485886B1
7.2: (5-Diethoxyphosphoryloxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile
8 g (33 mmol) of (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile are dissolved in 90 ml of tetrahydrofuran (THF) and cooled in an ice bath. After adding 6.3 g (36 mmol) of diethylphosphoryl chloride to the solution, 5.0 g (50 mmol) of triethylamine are added dropwise, keeping the temperature below 50° C. The reaction mixture is stirred at 5° C. for 60 min., then poured into 100 ml of water, and extracted with ethyl acetate. The organic phase is washed with 0.1N hydrochloric acid solution, water, and sodium chloride solution. The organic phase is dried over MgSO4, the solvent is distilled off, and the residue is purified by flash chromatography on silica gel with ethyl acetate—hexane (1:1) as eluent. The product is obtained in the form of a yellow solid, melting point 90-91° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 1.43 (t, 6H), 2.37 (s, 3H), 4.36-4.47 (m, 4H), 6.13 (d, 1H), 6.86 (d, 1H), 7.19-7.39 (m, 4H).

reactant | (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | 33 mmol, 8 g | ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C13H10N2OS
reactant | diethylphosphoryl chloride | 36 mmol, 6.3 g | C(C)P(=O)(CC)Cl | C4H10ClOP
reactant | triethylamine | 50 mmol, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | (5-Diethoxyphosphoryloxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | C(C)OP(=O)(OCC)ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C17H19N2O4PS
